US09035059B2
2-Chloro-5-nitropyrimidine (100 mg, 0.627 mmol) and triethylamine (96 μL, 0.690 mmol) were added successively to a solution of 3-phenylpropylamine (98 μL, 0.690 mmol) in tetrahydrofuran, and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and 0.5 mol/L hydrochloric acid and dried over anhydrous magnesium sulfate. Thereafter, the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to afford 5-nitro-N-(3-phenylpropyl)pyrimidin-2-amine as a colorless solid (108 mg).

reactant | 2-Chloro-5-nitropyrimidine | 0.627 mmol, 100 mg | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
reactant | triethylamine | 0.690 mmol, 96 μL | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropylamine | 0.690 mmol, 98 μL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-nitro-N-(3-phenylpropyl)pyrimidin-2-amine | 108 mg | [N+](=O)([O-])C=1C=NC(=NC1)NCCCC1=CC=CC=C1 | C13H14N4O2
